US07632832B2
Step B. 1-(1-t-Butoxycarbonylpiperidin-4-yl)imidazolidin-2-one
Sodium hydride (59 mg, 60% dispersion in oil, 1.5 mmol) was added to a solution of 1-t-butoxycarbonyl-4-(2-chloroethylamino)piperidine (305 mg, 0.98 mmol) in dimethylformamide (5 mL), and the reaction stirred at room temperature overnight. The reaction was quenched with water, filtered and purified by reverse phase HPLC(C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid, gradient elution), to give the title compound (30 mg). 1H NMR (500 MHz, CDCl3) □ 4.22 (br s, 3H), 3.88 (tt, J=4, 12 Hz, 1H), 3.52 (m, 2H), 3.46 (m, 2H), 2.79 (br t, 11 Hz, 2H), 1.72 (d, J=12 Hz, 2H), 1.56 (m, 2H), 1.48 (s, 9H).

reactant | Sodium hydride | 1.5 mmol, 59 mg | [H-].[Na+]
reactant | 1-t-butoxycarbonyl-4-(2-chloroethylamino)piperidine | 0.98 mmol, 305 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCCl | C12H23ClN2O2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(1-t-Butoxycarbonylpiperidin-4-yl)imidazolidin-2-one | 30 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NCC1)=O | C13H23N3O3
